US04550105
A mixture of 298 mg of cis-4-acetamidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine, 576 mg of potassium persulfate and 183 mg of dipotassium phosphate in 15 ml of water and 15 ml of acetonitrile is heated under reflux for 1.5 hours. The reaction mixture is concentrated in vacuo. The residue is taken up in ethyl acetate and the solution is washed successively with an aqueous sodium hydrogen carbonate solution and an aqueous sodium chloride solution. The ethyl acetate solution is dried over magnesium sulfate and the solvent is then distilled off in vacuo. Ethyl acetate is added to the residue and the precipitated crystals are collected by filtration to give cis-4-acetamidomethyl-3-phenylacetamido-2-oxoazetidine, m.p. 200°-202° C.

reactant | cis-4-acetamidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine | 298 mg | C(C)(=O)NC[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)NC(CC1=CC=CC=C1)=O | C23H27N3O5
reactant | potassium persulfate | 576 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | dipotassium phosphate | 183 mg | P(=O)([O-])([O-])O.[K+].[K+]
solvent | water | 15 ml | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | cis-4-acetamidomethyl-3-phenylacetamido-2-oxoazetidine | C(C)(=O)NC[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O | C14H17N3O3
